US06683095B2
Synthesis of (E)-1-(3-bromo-2-hydroxy-5-methylphenyl)-3-(3-chloro-4-methoxyphenyl)-2-propen-1-one
1-(3-Bromo-2-hydroxy-5-methylphenyl)-1-ethanone (10 g, 43.7 mmol) and 3-chloro-4-methoxybenzaldehyde (9.0 g, 1.2 molar eq.) were introduced into 80% aqueous ethanol solution (150 ml), sodium hydroxide (NaOH; 5.2 g, 3.0 molar eq.) was added thereto, and the resulting mixture was stirred for 17 hours at room temperature. After completion of reaction, the reaction solution was neutralized by 2N aqueous hydrochloric acid solution and diluted with water (150 ml). The yellow solid thus precipitated was washed with water and methanol to give 14.2 g (Yield 85%) of the purified title compound.

reactant | 1-(3-Bromo-2-hydroxy-5-methylphenyl)-1-ethanone | 43.7 mmol, 10 g | BrC=1C(=C(C=C(C1)C)C(C)=O)O | C9H9BrO2
reactant | 3-chloro-4-methoxybenzaldehyde | 1.2 molar, 9.0 g | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
reactant | sodium hydroxide | 3.0 molar, 5.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (E)-1-(3-bromo-2-hydroxy-5-methylphenyl)-3-(3-chloro-4-methoxyphenyl)-2-propen-1-one | Yield 85% | BrC=1C(=C(C=C(C1)C)C(\C=C\C1=CC(=C(C=C1)OC)Cl)=O)O | C17H14BrClO3
